US06166037
Step A: N-Tertbutoxycarbonyl-4-phenyl-3-(carbomethoxy)-1, 2, 5, 6-tetrahydropyridine
To a solution of 153 mg of 1-(t-butoxycarbonyl)-4-phenyl-1,2,5,6-tetrahydronicotinic acid in 1 mL of THF and 1 mL of MeOH was added 0.6 mL of TMSCHN2 (2M in hexanes). The reaction was stirred at room temperature for 2 h and concentrated under vacuum. The residue was purified by flash chromatography eluting with 20% EtOAc in hexanes to provide 116 mg of the title compound: 1H NMR (300 MHz, CDCl3): δ1.5 (s, 9H), 2.5-2.6 (m, 2H), 3.5 (s, 3H), 3.6 (t, 2H), 4.2-4.3 (m, 2H), 7.1-7.2 (m, 2H), 7.2-7.4 (m, 3H). RF : 0.68 (50% EtOAc in hexanes).

reactant | 1-(t-butoxycarbonyl)-4-phenyl-1,2,5,6-tetrahydronicotinic acid | 153 mg | C(C)(C)(C)OC(=O)N1CC(C(=O)O)=C(CC1)C1=CC=CC=C1 | C17H21NO4
reactant | TMSCHN2 | 2M, 0.6 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | N-Tertbutoxycarbonyl-4-phenyl-3-(carbomethoxy)-1, 2, 5, 6-tetrahydropyridine | 116 mg | C(C)(C)(C)OC(=O)N1CC(=C(CC1)C1=CC=CC=C1)C(=O)OC | C18H23NO4
